US04450149
1-Benzoxy-5-iodopentane.
5-Benzoxy-1-pentene (30 mmol, 5.7 g) was hydroborated with BH3 -THF (10 mmol) at 0° C. for 1 hr. Iodinemonochloride (20 mmol, 1.0 ml) was added at room temperature; after 45 min,the product was isolated via chromatography (alumina): yield 5.63 g (88% based on ICl); bp 125° C./0.25 torr; m/e 318.1 (Calcd 318.2); IR (neat) 1705(C=O), 1205(C-I)cm-1 ; NMR (neat) δ 1.7 (broad envelope, 6, alkyl), 3.0 (t, 2, --CH2I), 4.2 (t, 2, --CH2O--),7.6 (m, 5, ArH).

reactant | 5-Benzoxy-1-pentene | 30 mmol, 5.7 g | C(C1=CC=CC=C1)OCCCC=C | C12H16O
reactant | THF | 10 mmol | C1CCOC1 | C4H8O
reactant | Iodinemonochloride | 20 mmol, 1.0 ml | ICl | ClI
product | 1-Benzoxy-5-iodopentane | C(C1=CC=CC=C1)OCCCCCI | C12H17IO
